US06605624B1
Methyl 5-(Benzoyloxymethyl)-2-(difluoromethyl)4-(cyclopropyl-methyl)-6-(trifluoromethyl)-3-pyridinecarboxylate (Compound 41)
Reaction of methyl 2-(difluoromethyl)-5-(hydroxymethyl)-4-(cyclopropylmethyl)-6-(trifluoromethyl)-3-pyridine-carboxylate (U.S. Pat. No. 5,169,432 example A compound A4) with Benzoyl chloride and triethylamine according to the procedure in example 99 of U.S. Pat. No. 5,169,432 gave the product.

reactant | methyl 2-(difluoromethyl)-5-(hydroxymethyl)-4-(cyclopropylmethyl)-6-(trifluoromethyl)-3-pyridine-carboxylate | FC(C1=NC(=C(C(=C1C(=O)OC)CC1CC1)CO)C(F)(F)F)F | C14H14F5NO3
reactant | Benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | Methyl 5-(Benzoyloxymethyl)-2-(difluoromethyl)4-(cyclopropyl-methyl)-6-(trifluoromethyl)-3-pyridinecarboxylate | C(C1=CC=CC=C1)(=O)OCC=1C(=C(C(=NC1C(F)(F)F)C(F)F)C(=O)OC)CC1CC1 | C21H18F5NO4
